US08106070B2
Methylmagnesium bromide (3 M in diethyl ether) (28 μL, 0.08 mmol) was added to a 0° C. solution of 4-(2,2-dimethylpropyl)-2-{[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (20 mg, 0.04 mmol) in tetrahydrofuran (3 mL). After warming slowly to ambient temperature, the reaction was quenched with a few drops of water and concentrated in vacuo to afford 4-(2,2-dimethylpropyl)-2-{2-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide which was used in the subsequent step without further purification.

reactant | Methylmagnesium bromide | 0.08 mmol, 3 M, 28 μL | C[Mg]Br
reactant | 4-(2,2-dimethylpropyl)-2-{[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.04 mmol, 20 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=C(C=C(C=C1)C1=NC=C(C=C1)F)F)=O)(C)C | C23H26F2N4O3S
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-(2,2-dimethylpropyl)-2-{2-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=C(C=C(C=C1)C1=NC=C(C=C1)F)F)(C)O)(C)C | C24H30F2N4O3S
